### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Sphere/PolePolar): poles and polars

### PR DESCRIPTION
**Pull request by jsm28**
Define poles and polars for spheres in Euclidean affine spaces, and set up some basic API, including in particular La Hire's theorem (`p₁` lies on the polar of `p₂` if and only if `p₂` lies on the polar of `p₁`).

Poles and polars are actually meaningful for any quadric in a projective space over any field, but I think it's reasonable to set up this theory for spheres in the Euclidean context and potentially link it in future to more general projective geometry.

---

- [x] depends on: #31891
- [x] depends on: #32296

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Parcly-Taxel — APPROVED** [review]

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean [hunk 1]
```diff
@@ -0,0 +1,158 @@
...
+@[simp] lemma direction_polar {s : Sphere P} (hs : s.radius ≠ 0) (p : P) :
+    (s.polar p).direction = (ℝ ∙ (p -ᵥ s.center))ᗮ := by
+  rw [polar, direction_orthRadius, inversion_vsub_center,
+    Submodule.orthogonalComplement_eq_orthogonalComplement]
+  by_cases h : p = s.center
+  · simp [h]
+  · refine Submodule.span_singleton_smul_eq ?_ _
+    simp [hs, h]
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (kim-em) [inline Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean]: Do you know why this is required? Wrapping `#defeq_abuse` around the command may say something helpful.

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean [hunk 2]
```diff
@@ -0,0 +1,158 @@
...
+  simp [polar, pole, hs]
+
+@[simp] lemma polar_center (s : Sphere P) : s.polar s.center = ⊤ := by
+  simp [polar]
+
+@[simp] lemma polar_zero_radius {s : Sphere P} (hs : s.radius = 0) (p : P) : s.polar p = ⊤ := by
+  simp [polar, hs]
+
+@[simp] lemma polar_eq_orthRadius_self_iff {s : Sphere P} (hs : 0 ≤ s.radius) {p : P} :
+    s.polar p = s.orthRadius p ↔ p ∈ s ∨ p = s.center := by
```
Comment (kim-em) [inline Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean:89]: I doubt this should be a simp lemma?

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean (hunk 1 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean]: I confirmed it's still needed with the latest Lean/mathlib:

```
#defeq_abuse: command fails with `backward.isDefEq.respectTransparency true` but succeeds with `false`.
The following isDefEq checks are the root causes of the failure:
  ❌️ s.orthRadius (inversion s.center s.radius p) =?= s.polar p
  ❌️ (s.orthRadius (inversion s.center s.radius p)).direction =?= (s.polar p).direction
  ❌️ (↑(s.orthRadius (inversion s.center s.radius p)).direction).Mem x =?= (↑(s.polar p).direction).Mem x
  ❌️ @ContinuousAffineMap Real V
  (↥(@direction Real V P
      (@NormedRing.toRing Real
        (@NormedCommRing.toNormedRing Real
          (@NormedField.toNormedCommRing Real
            (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
      (@NormedAddCommGroup.toAddCommGroup V inst✝³)
      (@NormedSpace.toModule Real V
        (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
        (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
          inst✝²))
      (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)
      (@orthRadius V P inst✝³ inst✝² inst✝¹ inst✝ s
        (@inversion V P inst✝³ inst✝² inst✝¹ inst✝ (@center P inst✝¹ s) (@radius P inst✝¹ s) p))))
  P
  (↥(@orthRadius V P inst✝³ inst✝² inst✝¹ inst✝ s
      (@inversion V P inst✝³ inst✝² inst✝¹ inst✝ (@center P inst✝¹ s) (@radius P inst✝¹ s) p)))
  (@NormedRing.toRing Real
    (@NormedCommRing.toNormedRing Real
      (@NormedField.toNormedCommRing Real
        (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
  (@NormedAddCommGroup.toAddCommGroup V inst✝³)
  (@NormedSpace.toModule Real V
    (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
    (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
    (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
      inst✝²))
  (@UniformSpace.toTopologicalSpace P (@PseudoMetricSpace.toUniformSpace P (@MetricSpace.toPseudoMetricSpace P inst✝¹)))
  (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
    (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)
  (@Submodule.addCommGroup Real V
    (@NormedRing.toRing Real
      (@NormedCommRing.toNormedRing Real
        (@NormedField.toNormedCommRing Real
          (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
    (@NormedAddCommGroup.toAddCommGroup V inst✝³)
    (@NormedSpace.toModule Real V
      (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
      (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
      (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        inst✝²))
    (@direction Real V P
      (@NormedRing.toRing Real
        (@NormedCommRing.toNormedRing Real
          (@NormedField.toNormedCommRing Real
            (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
      (@NormedAddCommGroup.toAddCommGroup V inst✝³)
      (@NormedSpace.toModule Real V
        (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
        (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
          inst✝²))
      (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)
      (@orthRadius V P inst✝³ inst✝² inst✝¹ inst✝ s
        (@inversion V P inst✝³ inst✝² inst✝¹ inst✝ (@center P inst✝¹ s) (@radius P inst✝¹ s) p))))
  (@Submodule.module Real V
    (@Ring.toSemiring Real
      (@NormedRing.toRing Real
        (@NormedCommRing.toNormedRing Real
          (@NormedField.toNormedCommRing Real
            (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))))))
    (@AddCommGroup.toAddCommMonoid V (@NormedAddCommGroup.toAddCommGroup V inst✝³))
    (@NormedSpace.toModule Real V
      (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
      (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
      (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        inst✝²))
    (@direction Real V P
      (@NormedRing.toRing Real
        (@NormedCommRing.toNormedRing Real
          (@NormedField.toNormedCommRing Real
            (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
      (@NormedAddCommGroup.toAddCommGroup V inst✝³)
      (@NormedSpace.toModule Real V
        (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
        (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
          inst✝²))
      (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)
      (@orthRadius V P inst✝³ inst✝² inst✝¹ inst✝ s
        (@inversion V P inst✝³ inst✝² inst✝¹ inst✝ (@center P inst✝¹ s) (@radius P inst✝¹ s) p))))
  (@instTopologicalSpaceSubtype P
    (fun x ↦
      @Membership.mem P
        (@AffineSubspace Real V P
          (@NormedRing.toRing Real
            (@NormedCommRing.toNormedRing Real
              (@NormedField.toNormedCommRing Real
                (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
          (@NormedAddCommGroup.toAddCommGroup V inst✝³)
          (@NormedSpace.toModule Real V
            (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
            (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
            (@InnerProductSpace.toNormedSpace Real V Real.instRCLike
              (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³) inst✝²))
          (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
            (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝))
        (@SetLike.instMembership
          (@AffineSubspace Real V P
            (@NormedRing.toRing Real
              (@NormedCommRing.toNormedRing Real
                (@NormedField.toNormedCommRing Real
                  (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
            (@NormedAddCommGroup.toAddCommGroup V inst✝³)
            (@NormedSpace.toModule Real V
              (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
              (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
              (@InnerProductSpace.toNormedSpace Real V Real.instRCLike
                (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³) inst✝²))
            (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
              (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝))
          P
          (@instSetLike Real V P
            (@NormedRing.toRing Real
              (@NormedCommRing.toNormedRing Real
                (@NormedField.toNormedCommRing Real
                  (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
            (@NormedAddCommGroup.toAddCommGroup V inst✝³)
            (@NormedSpace.toModule Real V
              (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
              (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
              (@InnerProductSpace.toNormedSpace Real V Real.instRCLike
                (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³) inst✝²))
            (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
              (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)))
        (@orthRadius V P inst✝³ inst✝² inst✝¹ inst✝ s
          (@inversion V P inst✝³ inst✝² inst✝¹ inst✝ (@center P inst✝¹ s) (@radius P inst✝¹ s) p))
        x)
    (@UniformSpace.toTopologicalSpace P
      (@PseudoMetricSpace.toUniformSpace P (@MetricSpace.toPseudoMetricSpace P inst✝¹))))
  (@toAddTorsor Real V P
    (@NormedRing.toRing Real
      (@NormedCommRing.toNormedRing Real
        (@NormedField.toNormedCommRing Real
          (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
    (@NormedAddCommGroup.toAddCommGroup V inst✝³)
    (@NormedSpace.toModule Real V
      (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
      (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
      (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        inst✝²))
    (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
      (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)
    (@orthRadius V P inst✝³ inst✝² inst✝¹ inst✝ s
      (@inversion V P inst✝³ inst✝² inst✝¹ inst✝ (@center P inst✝¹ s) (@radius P inst✝¹ s) p))
    ⋯) =?= @ContinuousAffineMap Real V
  (↥(@direction Real V P
      (@NormedRing.toRing Real
        (@NormedCommRing.toNormedRing Real
          (@NormedField.toNormedCommRing Real
            (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
      (@NormedAddCommGroup.toAddCommGroup V inst✝³)
      (@NormedSpace.toModule Real V
        (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
        (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
          inst✝²))
      (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)
      (@orthRadius V P inst✝³ inst✝² inst✝¹ inst✝ s
        (@inversion V P inst✝³ inst✝² inst✝¹ inst✝ (@center P inst✝¹ s) (@radius P inst✝¹ s) p))))
  P
  (↥(@orthRadius V P inst✝³ inst✝² inst✝¹ inst✝ s
      (@inversion V P inst✝³ inst✝² inst✝¹ inst✝ (@center P inst✝¹ s) (@radius P inst✝¹ s) p)))
  (@NormedRing.toRing Real
    (@NormedCommRing.toNormedRing Real
      (@NormedField.toNormedCommRing Real
        (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
  (@NormedAddCommGroup.toAddCommGroup V inst✝³)
  (@NormedSpace.toModule Real V
    (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
    (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
    (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
      inst✝²))
  (@UniformSpace.toTopologicalSpace P (@PseudoMetricSpace.toUniformSpace P (@MetricSpace.toPseudoMetricSpace P inst✝¹)))
  (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
    (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)
  (@Submodule.addCommGroup Real V
    (@NormedRing.toRing Real
      (@NormedCommRing.toNormedRing Real
        (@NormedField.toNormedCommRing Real
          (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
    (@NormedAddCommGroup.toAddCommGroup V inst✝³)
    (@NormedSpace.toModule Real V
      (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
      (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
      (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        inst✝²))
    (@direction Real V P
      (@NormedRing.toRing Real
        (@NormedCommRing.toNormedRing Real
          (@NormedField.toNormedCommRing Real
            (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
      (@NormedAddCommGroup.toAddCommGroup V inst✝³)
      (@NormedSpace.toModule Real V
        (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
        (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
          inst✝²))
      (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)
      (@polar V P inst✝³ inst✝² inst✝¹ inst✝ s p)))
  (@Submodule.module Real V
    (@Ring.toSemiring Real
      (@NormedRing.toRing Real
        (@NormedCommRing.toNormedRing Real
          (@NormedField.toNormedCommRing Real
            (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))))))
    (@AddCommGroup.toAddCommMonoid V (@NormedAddCommGroup.toAddCommGroup V inst✝³))
    (@NormedSpace.toModule Real V
      (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
      (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
      (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        inst✝²))
    (@direction Real V P
      (@NormedRing.toRing Real
        (@NormedCommRing.toNormedRing Real
          (@NormedField.toNormedCommRing Real
            (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
      (@NormedAddCommGroup.toAddCommGroup V inst✝³)
      (@NormedSpace.toModule Real V
        (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
        (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
          inst✝²))
      (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)
      (@polar V P inst✝³ inst✝² inst✝¹ inst✝ s p)))
  (@instTopologicalSpaceSubtype P
    (fun x ↦
      @Membership.mem P
        (@AffineSubspace Real V P
          (@NormedRing.toRing Real
            (@NormedCommRing.toNormedRing Real
              (@NormedField.toNormedCommRing Real
                (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
          (@NormedAddCommGroup.toAddCommGroup V inst✝³)
          (@NormedSpace.toModule Real V
            (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
            (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
            (@InnerProductSpace.toNormedSpace Real V Real.instRCLike
              (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³) inst✝²))
          (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
            (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝))
        (@SetLike.instMembership
          (@AffineSubspace Real V P
            (@NormedRing.toRing Real
              (@NormedCommRing.toNormedRing Real
                (@NormedField.toNormedCommRing Real
                  (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
            (@NormedAddCommGroup.toAddCommGroup V inst✝³)
            (@NormedSpace.toModule Real V
              (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
              (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
              (@InnerProductSpace.toNormedSpace Real V Real.instRCLike
                (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³) inst✝²))
            (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
              (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝))
          P
          (@instSetLike Real V P
            (@NormedRing.toRing Real
              (@NormedCommRing.toNormedRing Real
                (@NormedField.toNormedCommRing Real
                  (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
            (@NormedAddCommGroup.toAddCommGroup V inst✝³)
            (@NormedSpace.toModule Real V
              (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
              (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
              (@InnerProductSpace.toNormedSpace Real V Real.instRCLike
                (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³) inst✝²))
            (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
              (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)))
        (@polar V P inst✝³ inst✝² inst✝¹ inst✝ s p) x)
    (@UniformSpace.toTopologicalSpace P
      (@PseudoMetricSpace.toUniformSpace P (@MetricSpace.toPseudoMetricSpace P inst✝¹))))
  (@toAddTorsor Real V P
    (@NormedRing.toRing Real
      (@NormedCommRing.toNormedRing Real
        (@NormedField.toNormedCommRing Real
          (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike)))))
    (@NormedAddCommGroup.toAddCommGroup V inst✝³)
    (@NormedSpace.toModule Real V
      (@DenselyNormedField.toNormedField Real (@RCLike.toDenselyNormedField Real Real.instRCLike))
      (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
      (@InnerProductSpace.toNormedSpace Real V Real.instRCLike (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
        inst✝²))
    (@NormedAddTorsor.toAddTorsor V P (@NormedAddCommGroup.toSeminormedAddCommGroup V inst✝³)
      (@MetricSpace.toPseudoMetricSpace P inst✝¹) inst✝)
    (@polar V P inst✝³ inst✝² inst✝¹ inst✝ s p) ⋯)
```

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean (hunk 2 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean:89]: I think the RHS is indeed simpler than the LHS (this is most likely to be useful when `p ∉ s` or `p ≠ s.center` is passed to `simp` to allow further simplification, but those are indeed reasonable hypotheses to pass to `simp`).

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean]: If `polar` is turned into an `abbrev`, this error is gone. I think this is because `orthogonalProjection` returns a `↥s` for subspace `s`, which contains `polar` and is being rewritten here.

I don't know what the best way to resolve this should be. A radical refactor would be creating a version of `orthogonalProjection` that returns a point in the ambient space, so such manipulation in the type doesn't occur. Similar to how we have `Submodule.projectionOnto` and `Submodule.projection`

**Review by wwylele — APPROVED** [review]
Looks good!

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean (hunk 1 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean]: I'm doubtful that `polar` should be an `abbrev`, but I've changed this proof to use `simp!` which also suffices to avoid `backward.isDefEq.respectTransparency`.

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean [hunk 3]
```diff
@@ -0,0 +1,157 @@
...
+
+## Main theorems
+
+* `EuclideanGeometry.Sphere.mem_polar_iff_mem_polar`: La Hire's theorem.
+
+-/
+
+@[expose] public section
+
+noncomputable section
```
Comment (YaelDillies) [inline Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean]:
```suggestion
@[expose] public noncomputable section
```

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean [hunk 4]
```diff
@@ -0,0 +1,157 @@
...
+
+This file defines poles and polars for spheres in Euclidean spaces.
+
+## Main definitions
+
+* `EuclideanGeometry.Sphere.pole`: the inversion in the sphere of the point in an affine subspace
+  closest to the center.
+
+* `EuclideanGeometry.Sphere.polar`: the affine subspace orthogonal to the radius vector at a point
+  and passing through its inversion in the sphere.
```
Comment (YaelDillies) [inline Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean]: Could you clarify right away that these operations are not homogeneous? ie that they swap points and subspaces?

**Review by YaelDillies — COMMENTED** [review]
So these two operations are basically wrappers around the more fundamental `inversion`. What justifies adding them? as `def`s rather than `abbrev`s? I agree it makes sense, but I would like us to document the reasoning

**Comment by jsm28** [comment]
I'd argue that the fact they're defined in terms of `inversion` rather than something more abstract about quadrics in projective spaces is an implementation detail (and when there's a plausible case that the definition might change in future - though in fact I suspect that even given the projective space theory it might make more sense to link the two through lemmas rather than change the definition - that's a good reason for it not to be an `abbrev`).

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean (hunk 4 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean]: I've expanded the docstring to clarify that.

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean [hunk 5]
```diff
@@ -0,0 +1,156 @@
...
+
+@[simp] lemma pole_polar {s : Sphere P} (hs : s.radius ≠ 0) (p : P) : s.pole (s.polar p) = p := by
+  simp! [pole, polar, hs]
+
+lemma orthRadius_eq_polar_inversion {s : Sphere P} (hs : s.radius ≠ 0) (p : P) :
+    s.orthRadius p = s.polar (inversion s.center s.radius p) := by
+  simp [polar, hs]
+
+@[simp] lemma polar_pole_orthRadius {s : Sphere P} (hs : s.radius ≠ 0) (p : P) :
+    s.polar (s.pole (s.orthRadius p)) = s.orthRadius p := by
```
Comment (YaelDillies) [inline Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean:79]: Isn't something like this true?
```suggestion
@[simp] lemma polar_pole_orthRadius {s : Sphere P} (hs : s.radius ≠ 0) (p : AffineSubspace K P)
    [p.direction.HasOrthoProj] (hp : p has codim one) (hs : s.center \nin p) :
    s.polar (s.pole p) = p := by
```

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean:79]: I think the right spelling is "has codim one" would be `IsCoatom`, but we don't currently have any lemmas about atoms and coatoms in affine spaces. (And I don't know if anything would go wrong in the case of a space that's not complete, but that's the sort of thing that would be discovered while writing the proof.)

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean:79]: I think the maximally general version of this lemma is indeed what we have here, for "a subspace that can be expressed using `orthRadius`". And then for well-behaved (complete?) spaces, for subspaces not through `s.center` that condition is equivalent to "codimension one".

Comment (YaelDillies) [reply Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean:79]: In fact, couldn't pole/polar be unified into a single operation that sends a d-dimensional affine subspace to a (n - d - 1)-dimensional one, by identifying points with 0-dimensional subspaces? I guess the point is that this isn't used in practice?

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean:79]: If you ignore the case of subspaces through `s.center`, then I think the inf of the polars of all points in the subspace should have that property (at least when the ambient space is finite-dimensional, otherwise maybe further conditions on the subspace are needed), yes. But apart from that definition being in terms of polars as defined here, I'm not aware of that operation being used in practice. Whereas poles and polars are definitely used, and not just in two dimensions (pole/polar reciprocation is how to define duals of uniform polyhedra, for example).

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean [hunk 6]
```diff
@@ -0,0 +1,156 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Joseph Myers
+-/
+module
+
+public import Mathlib.Geometry.Euclidean.Inversion.Basic
+public import Mathlib.Geometry.Euclidean.Sphere.OrthRadius
+
+/-!
+# Poles and polars.
```
Comment (YaelDillies) [inline Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean]: I don't remember ever seeing a period in a file title. It is not a full sentence after all
```suggestion
# Poles and polars
```

File: Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean [hunk 7]
```diff
@@ -0,0 +1,156 @@
...
+open AffineSubspace Function
+open scoped RealInnerProductSpace
+
+variable {V P : Type*}
+variable [NormedAddCommGroup V] [InnerProductSpace ℝ V] [MetricSpace P] [NormedAddTorsor V P]
+
+/-- The pole of an affine subspace is the inversion in the sphere of the point in that subspace
+closest to the center. -/
+def pole (s : Sphere P) (as : AffineSubspace ℝ P) [Nonempty as]
+    [as.direction.HasOrthogonalProjection] : P :=
```
Comment (YaelDillies) [inline Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean:46]: I am somewhat concerned about the use of a term-class not on a free variable here. Won't it happen that one will want to apply `pole` to some concrete `as` whose `direction` simplifies to something simple for which we obviously have `HasOrthogonalProjection`, but `as.direction.HasOrthogonalProjection`
itself is missing as an instance?

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/PolePolar.lean:46]: Typically `HasOrthogonalProjection` follows from `FiniteDimensional`, and we have lots of instances to say the directions of affine subspaces are finite-dimensional in various common cases (span of range of a function indexed by a `Finite` type, span of a singleton, sup of two finite-dimensional subspaces, etc.). So I think this is consistent with the common use of `FiniteDimensional` for submodules.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by mattrobball** [comment]
bors merge
